* C:\Users\Admin\Desktop\LTSPICE\TwostageopampwC.asc
M5 N003 N004 0 0 CMOSN l=180n w=2072n
M1 Vg Vin1 N003 N003 CMOSN l=180n w=2876n
M2 N001 Vin2 N003 N003 CMOSN l=180n w=2876n
V1 Vin1 0 0.9 AC -0.5 0
V2 VDD 0 1.8
V3 Vin2 0 0.9 AC 0.5 0
M3 VDD Vg Vg VDD CMOSP l=180n w=1565n
M4 VDD Vg N001 VDD CMOSP l=180n w=1565n
M8 N004 N004 0 0 CMOSN l=180n w=3450n
I1 VDD N004 0.04m
M7 N002 N004 0 0 CMOSN l=180n w=17986n
M6 VDD N001 N002 VDD CMOSP l=180n w=52985n
C1 N001 N002 2.4p
C2 0 N002 10p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Admin\AppData\Local\LTspice\lib\cmp\standard.mos
.INCLUDE tsmc018.lib
.ac dec 100 1 1T
.backanno
.end
